US06878714B2
Dissolved 1-(5-nitro-2-pentafluoroethyl-phenoxy)-3-pyrrolidin-1-yl-propan-2-ol (3.5 g) in CH2Cl2 (15 ml), added TEA (2.55 ml) and cooled to 0° C. Acetyl chloride (781.3 μl) was added dropwise, forming a suspension. The mixture was warmed to RT and stirred for 1.5 h. Additional acetyl chloride (200 μl) was added and the mix was stirred for another h. The mixture was diluted with CH2Cl2 and washed with sat. NaHCO3. The organic layer was removed, washed with brine and back extracted with CH2Cl2. Dried the combined organic layers over Na2SO4, filtered and concentrated in vacuo. The residue was purified over silica gel column (5:94.5:0.5 MeOH:CH2Cl2:NH4OH) to provide acetic acid 2-(5-nitro-2-pentafluoroethyl-phenoxy)-1-pyrrolidin-1-ylmethyl-ethyl ester as a yellow brown oil.

reactant | 1-(5-nitro-2-pentafluoroethyl-phenoxy)-3-pyrrolidin-1-yl-propan-2-ol | 3.5 g | [N+](=O)([O-])C=1C=CC(=C(OCC(CN2CCCC2)O)C1)C(C(F)(F)F)(F)F | C15H17F5N2O4
reactant | Acetyl chloride | 781.3 μl | C(C)(=O)Cl | C2H3ClO
reactant | acetyl chloride | 200 μl | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | acetic acid 2-(5-nitro-2-pentafluoroethyl-phenoxy)-1-pyrrolidin-1-ylmethyl-ethyl ester | [N+](=O)([O-])C=1C=CC(=C(OCC(CN2CCCC2)OC(C)=O)C1)C(C(F)(F)F)(F)F | C17H19F5N2O5
